US09035058B2
Synthesis of 1-(4-bromobutyl)-1-methylpiperidin-1-ium bromide
A solution of 1-methylpiperidine (˜24.80 g) in anhydrous dimethylformamide (˜500 mL) was added slowly to a solution of 1,4-dibromobutane (˜269.9 g) in anhydrous dimethylformamide (˜250 mL) over the course of about 24 hours under a nitrogen atmosphere with rapid stirring. Stirring of the solution was continued for a further ˜48 hours. The reaction mixture was then passed through a D-frit (˜10-20 microns) to separate any solid 1,1′-(butane-1,4-diyl)bis(1-methylpiperidin-1-ium) bromide impurity. Anhydrous diethyl ether (˜2000 mL) was then added to the filtrate to precipitate the product which was then filtered using a D-frit and rinsed with anhydrous diethyl ether (3×˜400 mL). After drying the product (˜63.7 g, ˜80%) was confirmed to be 1-(4-bromobutyl)-1-methylpiperidin-1-ium bromide by 1H NMR.

reactant | 1-methylpiperidine | ˜24.80 g | CN1CCCCC1 | C6H13N
reactant | 1,4-dibromobutane | ˜269.9 g | BrCCCCBr | C4H8Br2
solvent | dimethylformamide | ˜500 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | ˜250 mL | CN(C=O)C | C3H7NO
product | 1-(4-bromobutyl)-1-methylpiperidin-1-ium bromide | [Br-].BrCCCC[N+]1(CCCCC1)C | InChI=1S/C10H21BrN.BrH/c1-12(10-6-3-7-11)8-4-2-5-9-12;/h2-10H2,1H3;1H/q+1;/p-1
